US06339045B1
Production of N-(i-propyl)-4-methylamino-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-56)
1.12 g (0.0012 mol) of N-(i-propyl)-4-(methyl(phenylmethyl)amino}-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide were mixed with methanol and then with a small amount of 10% palladium/carbon and acetic acid. The obtained mixture was stirred at room temperature for about 16 hours in a hydrogen atmosphere. The obtained reaction solution was filtered using Hyflo Super Cell and then concentrated. The concentrate was purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | N-(i-propyl)-4-(methyl(phenylmethyl)amino}-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | 0.0012 mol, 1.12 g | C(C)(C)NC(=O)C1=NC(=CC(=C1)N(CC1=CC=CC=C1)C)OC1=CC(=CC=C1)C(F)(F)F | C24H24F3N3O2
reactant | methanol | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(i-propyl)-4-methylamino-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | C(C)(C)NC(=O)C1=NC(=CC(=C1)NC)OC1=CC(=CC=C1)C(F)(F)F | C17H18F3N3O2
